US04687777
To a mixture of 4-[2-(5-methyl-2-pyridyl)ethoxy]aniline (12.0 g), 47% aqueous HBr solution (36.5 g) and methanol (40 ml)-acetone (80 ml) was added dropwise a solution of NaNO2 (4.0 g) in water (10 ml) at 5° C. or below. The whole mixture was stirred at 5° C. for 20 minutes, then methyl acrylate (27.0 g) was added thereto and the temperature was raised to 38° C. Cuprous oxide (1.0 g) was added to the mixture in small portions with vigorous stirring. After nitrogen gas evolution had ceased, the reaction mixture was concentrated under reduced pressure. The concentrate was made alkaline with concentrated aqueous ammonia and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4). The solvent was evaporated off to leave methyl 2-bromo-3-{4-[2-(5-methyl-2-pyridyl)ethoxy]phenyl}-propionate as a crude oil (17.5 g, 87.5%). IR(Neat)cm- 1 : 1735. NMR δ (ppm) in CDCl3 : 2.27 (3H, s), 3.10 (1H, dd, J=14 and 7), 3.22 (2H, t, J=6), 3.38 (1H, dd, J=14 and 7), 3.66 (3H, s), 4.29 (2H, t, J=6), 4.32 (1H, t, J=7), 6.7-7.5 (6H, m), 8.34 (1H, d, J=2).

reactant | 4-[2-(5-methyl-2-pyridyl)ethoxy]aniline | 12.0 g | CC=1C=CC(=NC1)CCOC1=CC=C(N)C=C1 | C14H16N2O
reactant | HBr | 36.5 g | Br | BrH
reactant | NaNO2 | 4.0 g | N(=O)[O-].[Na+]
reactant | methyl acrylate | 27.0 g | C(C=C)(=O)OC | C4H6O2
solvent | water | 10 ml | O | H2O
solvent | acetone | 80 ml | CC(=O)C | C3H6O
solvent | methanol | 40 ml | CO | CH4O
product | methyl 2-bromo-3-{4-[2-(5-methyl-2-pyridyl)ethoxy]phenyl}-propionate | BrC(C(=O)OC)CC1=CC=C(C=C1)OCCC1=NC=C(C=C1)C | C18H20BrNO3
